US07041304B2
30 wt % of cholesteryl nonanoate and 70 wt % of methylmethacrylate monomer were dissolved uniformly in 20 ml of methylene chloride under irradiation of ultrasonic wave. As an initiator, 2,2′-azobis(2-methylbutyronitrile) was added thereto in an amount of 1 wt % based on the weight of monomer. The obtained solution was added into 1.5% aqueous solution of polyvinyl alcohol with 87˜89% of saponification value and then was emulsified under 5,000 rpm of shear stress for 5 minutes. The emulsion and 0.01 wt % of sodium nitrate were introduced into the reactor heated at 60° C. and then polymerized for 4 hours. After the polymerization was terminated, the organic solvent was evaporated off under reduced pressure. The residue was filtrated, washed with distilled water several times, and then dried on vacuum oven, to give cholesterol liquid crystal polymer microcapsules as powders.

reactant | cholesteryl nonanoate | CCCCCCCCC(=O)O[C@H]1CC[C@@]2([C@H]3CC[C@]4([C@H]([C@@H]3CC=C2C1)CC[C@@H]4[C@H](C)CCCC(C)C)C)C | C36H62O2
reactant | methylmethacrylate | COC(C(=C)C)=O | C5H8O2
reactant | 2,2′-azobis(2-methylbutyronitrile) | N(=NC(C#N)(CC)C)C(C#N)(CC)C | C10H16N4
reactant | sodium nitrate | [N+](=O)([O-])[O-].[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | cholesterol | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
